US03984465
By following the procedure described in Example 5, Step C, using as the reactants 2-bromo-2-methyl-2',3'-dichloro-4'-methoxybutyrophenone (34 g., 0.1 mole), lithium bromide (17.4 g., 0.2 mole) and DMF (200 ml.), there is obtained 2-ethylidene-2',3'-dichloro-4'-methoxypropiophenone.

reactant | 2-bromo-2-methyl-2',3'-dichloro-4'-methoxybutyrophenone | 0.1 mole, 34 g | BrC(C(=O)C1=C(C(=C(C=C1)OC)Cl)Cl)(CC)C | C12H13BrCl2O2
reactant | lithium bromide | 0.2 mole, 17.4 g | [Br-].[Li+]
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 2-ethylidene-2',3'-dichloro-4'-methoxypropiophenone | C(C)=C(C(=O)C1=C(C(=C(C=C1)OC)Cl)Cl)C | C12H12Cl2O2
